US04681895
Preparation of N-(o-methoxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride:
Trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride (111 g, 0.5 mole) (which is prepared by the method as disclosed in Japanese Patent First Publication No. 19694/1977, C.A., 87, 53269x) and methyl anthranilate (75.6 g, 0.5 mole) are dissolved in a mixture of dimethylformamide and pyridine (1:1, 1250 ml), and thereto is added dicyclohexylcarbodiimide (103 g, 0.5 mole), and the mixture is stirred at room temperature for 40 hours. After the undissolved materials are filtered off, the solvent is evaporated under reduced pressure. To the residue are added methanol (500 ml) and water (80 ml), and the mixture is stirred, and the undissolved materials are again filtered off and the solvent is evaporated under reduced pressure. The resulting residue is washed with acetone (2000 ml) and recrystallized from water to give the title compound (143 g) as white crystals. The physical data of this compound are identical with those of N-(o-methoxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride prepared in Example 2.

reactant | Trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride | 0.5 mole, 111 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)O
reactant | methyl anthranilate | 0.5 mole, 75.6 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | dicyclohexylcarbodiimide | 0.5 mole, 103 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | pyridine | 1250 ml | N1=CC=CC=C1 | C5H5N
product | N-(o-methoxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride | 143 g | Cl.COC(=O)C1=C(C=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)CNC(=N)N | InChI=1S/C17H24N4O3.ClH/c1-24-16(23)13-4-2-3-5-14(13)21-15(22)12-8-6-11(7-9-12)10-20-17(18)19;/h2-5,11-12H,6-10H2,1H3,(H,21,22)(H4,18,19,20);1H/t11-,12-;
